US07196085B2
A stirred mixture of 2-(3-nitrophenyl)indan-1,3-dione (85 g, 0.318 mol) and hydrazine hydrate (450 ml) was heated under reflux for 2 hours then cooled to 0° C. The resulting solid was collected by filtration, washed with water (500 ml), ground to a fine powder, mixed with sufficient cold ethanol to give a thick paste, collected by filtration and dried in vacuo at 55° C. The crude solid was then recrystallised from ethanol to give 4-(3-aminobenzyl)-2H-phthalazin-1-one (32.6 g) as a pale brown solid, m.pt. 175–177° C.

reactant | 2-(3-nitrophenyl)indan-1,3-dione | 0.318 mol, 85 g | [N+](=O)([O-])C=1C=C(C=CC1)C1C(C2=CC=CC=C2C1=O)=O | C15H9NO4
reactant | hydrazine hydrate | 450 ml | O.NN
product | 4-(3-aminobenzyl)-2H-phthalazin-1-one | 32.6 g | NC=1C=C(CC2=NNC(C3=CC=CC=C23)=O)C=CC1 | C15H13N3O
